US06965048B2
A solution of 0.09 g (0.276 mmol) of trans-4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid in 2.5 mL of CH2Cl2 was treated at RT with 1 drop of DMF. 0.026 mL (0.304 mmol, 1.1 eq) of oxalyl chloride was added within 5 min and stirring was continued for 90 min. The solution was evaporated, redissolved in 2.5 mL of CH2Cl2 and added to a solution of 0.197 mL (2.21 mmol, 7.2 eq) of 3-(methylamino)-1-propanol [Powell et al., Synthesis (1986), (4), 338-40]at 0° C. The reaction was kept over night at RT, then partitioned between Et2O (×3)/aqueous saturated NaHCO3. The organic phases were washed once with aqueous 10% NaCl, dried over Na2SO4 and evaporated. Purification by flash-chromatography on 5 g silica gel (EtOAc:CH2Cl2 1:9 to 9:1) gave 0.064 g (58%) of pure trans-{4-[(3-hydroxy-propyl)-methyl-carbamoyl]-cyclohexylmethyl}-methyl-carbamic acid 4-chloro-phenyl ester, MS: 397 (MH+, 1Cl).

reactant | trans-4-{[(4-chloro-phenoxycarbonyl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid | 0.276 mmol, 0.09 g | ClC1=CC=C(OC(=O)N(C)C[C@@H]2CC[C@H](CC2)C(=O)O)C=C1 | C16H20ClNO4
reactant | oxalyl chloride | 0.304 mmol, 0.026 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(methylamino)-1-propanol | 2.21 mmol, 0.197 mL, 7.2 eq | CNCCCO | C4H11NO
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | trans-{4-[(3-hydroxy-propyl)-methyl-carbamoyl]-cyclohexylmethyl}-methyl-carbamic acid 4-chloro-phenyl ester | 0.064 g, 58% | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)C(N(C)CCCO)=O)=O | C20H29ClN2O4
